US08835144B2
Mercaptoundecyl bromoisobutyrate was synthesized through the reaction of bromoisobutyryl bromide and 11-mercapto-1-undecanol using a method published previously. 1H NMR (300 MHz, CDCl3): 4.15 (t, J=6.9 Hz, 2H, OCH2), 2.51 (q, J=7.5 Hz, 2H, SCH2), 1.92 (s, 6H, CH3), 1.57-1.72 (m, 4H, CH2), and 1.24-1.40 (m, 16H, CH2).

reactant | bromoisobutyryl bromide | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | 11-mercapto-1-undecanol | SCCCCCCCCCCCO | C11H24OS
product | Mercaptoundecyl bromoisobutyrate | BrC(C(=O)OCCCCCCCCCCCS)(C)C | C15H29BrO2S
